US06297258B1
4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
In the mamner of Example 103, 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide and 4-(2-hydroxy-ethyl) piperazine was converted to 32.3 mg of the title compound (free base) and mass spectrum (electrospray, m/e): M+H 539.1, 42.2 mg of the title compound as the bis-trifluoroacetate salt); mass spectrum (electrospray, m/e): M+H 539.1.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | 4-(2-hydroxy-ethyl) piperazine | OCCN1CCNCC1 | C6H14N2O
product | 4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 32.3 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCN(CC1)CCO)=O)OC)C#N | C27H28ClFN6O3
